US06583135B2
Preparation of 3-Benzyl-10-(2-fluorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole
A solution of lithium aluminum hydride (0.25 g, 6.59 mmol) in tetrahydrofuran (5.0 mL) and a solution of 3-benzoyl-10-(2-fluorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (0.247 g, 0.642 mmol) in tetrahydrofuran (5.0 mL) were reacted in a manner similar to Example 1 to give 0.15 g (63%) of the title compound as pale yellow crystals: mp 157-159° C.; 1H NMR (400 MHz, CDCl3) δ 7.86, 7.37-7.24, 7.18-7.10, 6.91, 3.72, 3.00-2.90, 2.75-2.61, 2.57-2.48, 2.42-2.33; 13C NMR (100 MHz, CDCl3) δ 161.9, 159.4, 137.6, 135.3, 132.5, 130.0, 129.3, 128.7, 128.0, 127.5, 127.0, 124.1, 122.4, 121.0, 115.7, 115.4, 114.1, 110.7, 62.0, 56.1, 53.9, 28.8, 24.9; IR (drift) 3405, 2887, 2811, 1485, 1453, 1418, 1346, 1335, 1221, 1121, 924, 817, 782, 757, 740 cm−1; MS (EI) m/z 370 (M+); Anal. Calcd for C25H23FN2: C, 81.05; H, 6.26; N, 7.56. Found: C, 80.82; H, 6.35; N, 7.47.

reactant | lithium aluminum hydride | 6.59 mmol, 0.25 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-benzoyl-10-(2-fluorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 0.642 mmol, 0.247 g | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)C1=C(C=CC=C1)F | C25H21FN2O
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | 3-Benzyl-10-(2-fluorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 0.15 g, 63% | C(C1=CC=CC=C1)N1CCC=2NC=3C=CC=C(C3C2CC1)C1=C(C=CC=C1)F | C25H23FN2
